US06063945
To a solution of 1-(2-acetoxyethyl)thio-2-(2,4-difluorophenyl)-1,1-difluoro-2,3-epoxypropane (24.0 g, 0.07 mol) in DMF (250 ml), 1,2,4-triazole (16.6 g, 0.24 mol) and potassium carbonate (33.2 g, 0.24 mol) were added, followed by stirring at room temperature for 12 hours and then at an external temperature of 50° C. for one hour. After the completion of the reaction, the reaction mixture was diluted with ethyl ether and an insoluble matter was filtered off. The ether solution was washed with water, dried over magnesium sulfate and then distilled off under reduced pressure. The residue so obtained was recrystallized from isopropyl ether--ethyl acetate, whereby 1-(2-acetoxyethyl)thio-2-(2,4-difluorophenyl)-1,1-difluoro-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (12.2 g, yield: 37.8%) was obtained as colorless crystals.

reactant | 1-(2-acetoxyethyl)thio-2-(2,4-difluorophenyl)-1,1-difluoro-2,3-epoxypropane | 0.07 mol, 24.0 g | C(C)(=O)OCCSC(C1(CO1)C1=C(C=C(C=C1)F)F)(F)F | C13H12F4O3S
reactant | 1,2,4-triazole | 0.24 mol, 16.6 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.24 mol, 33.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-(2-acetoxyethyl)thio-2-(2,4-difluorophenyl)-1,1-difluoro-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 12.2 g, yield: 37.8% | C(C)(=O)OCCSC(C(CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)(F)F | C15H15F4N3O3S
